US07935707B2
B) [5-Bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazol-4-yl]-methanol
A solution of 5.62 ml (5.6 mmol) of lithium aluminium hydride (1 molar in THF) was slowly added to a solution of 3.55 g (9.4 mmol) of 5-bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid methyl ester in 100 ml of THF cooled down to −70° C. The reaction mixture was warmed up to 0° C. and after 30 min cooled down to −50° C. and hydrolyzed with i) EtOAc, ii) H2O and iii) HCl (1N); after warming up to RT, it was extracted twice with EtOAc; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (n-heptane/EtOAc 9:1 to 1:1) to give 3.25 g (99%) of the title compound as colorless solid. MS: 351.0 (MH+, 1Br).

reactant | lithium aluminium hydride | 5.6 mmol, 1 molar, 5.62 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid methyl ester | 9.4 mmol, 3.55 g | COC(=O)C=1N(C(=NC1Br)C1=CC(=CC=C1)OC(F)(F)F)C | C13H10BrF3N2O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | [5-Bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazol-4-yl]-methanol | 3.25 g, 99% | BrC1=C(N(C(=N1)C1=CC(=CC=C1)OC(F)(F)F)C)CO | C12H10BrF3N2O2
